US08557819B2
(+)-5-[6-(-1H-Imidazol-1-yl)pyridazin-3-yl]-1-azabicyclo[3.2.1]octane
0.228 g (3.35 mmol) of imidazole in solution in 4 ml of dimethylformamide is introduced into a 10 ml three-necked round-bottomed flask. 0.137 g (3.42 mmol) of sodium hydride as a 60% dispersion in oil is subsequently added and the mixture is stirred at ambient temperature for 1 hour. The mixture is then added to a solution of (+)-5-(6-chloropyridazin-3-yl)-1-azabicyclo[3.2.1]octane (obtained by resolution of the racemic mixture prepared in stage 1.5 of Example 1, by liquid chromatography on a chiral support) (0.15 g, 0.67 mmol) in dimethylformamide and the reaction medium is heated at 90° C. for 15 hours and then at 110° C. for 3 hours, and the solvent is evaporated off under reduced pressure. The residue is taken up in 10 ml of chloroform and 10 ml of a saturated aqueous sodium carbonate solution. The aqueous phase is extracted again with 10 ml of chloroform and the combined organic phases are washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue is purified by silica gel plate chromatography, elution being carried out with a mixture of chloroform, methanol and aqueous ammonia in the proportions 85/15/1.5. 0.111 g of expected product is obtained.

reactant | imidazole | 3.35 mmol, 0.228 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 3.42 mmol, 0.137 g | [H-].[Na+]
reactant | (+)-5-(6-chloropyridazin-3-yl)-1-azabicyclo[3.2.1]octane | ClC1=CC=C(N=N1)C12CCCN(CC1)C2 | C11H14ClN3
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | (+)-5-[6-(-1H-Imidazol-1-yl)pyridazin-3-yl]-1-azabicyclo[3.2.1]octane | N1(C=NC=C1)C1=CC=C(N=N1)C12CCCN(CC1)C2 | C14H17N5
